US06995179B2
2) Synthesis of 5-(3-phenyl-2-propene-1-yl) 3-(2-trimethylsilylethyl) 4-(3-chlorophenyl)-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate:
649 mg (3.0 mmol) of (2-trimethylsilylethyl) 3-oxovalerate, 652 mg (3.0 mmol) of (3-phenyl-2-propene-1-yl) 3-aminocrotonate and 0.340 ml (3.0 mmol) of 3-chlorobenzaldehyde were heated at 70° C. under stirring in 15 ml of 2-propanol three nights. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=5/1) to obtain the title compound.

reactant | (2-trimethylsilylethyl) 3-oxovalerate | 3.0 mmol, 649 mg | O=C(CC(=O)OCC[Si](C)(C)C)CC | C10H20O3Si
reactant | (3-phenyl-2-propene-1-yl) 3-aminocrotonate | 3.0 mmol, 652 mg | N\C(=C/C(=O)OCC=CC1=CC=CC=C1)\C | C13H15NO2
reactant | 3-chlorobenzaldehyde | 3.0 mmol, 0.340 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | 2-propanol | 15 ml | CC(C)O | C3H8O
product | 5-(3-phenyl-2-propene-1-yl) 3-(2-trimethylsilylethyl) 4-(3-chlorophenyl)-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=CC1=CC=CC=C1)C)CC)C(=O)OCC[Si](C)(C)C | C30H36ClNO4Si
